* /home/ash98/downloads/esim-master/src/subcircuitlibrary/lm_7404/lm_7404.cir

.include NMOS-180nm.lib
* u2  net-_u1-pad1_ net-_u2-pad2_ adc_bridge_1
* u6  net-_u2-pad2_ net-_u10-pad1_ d_inverter
* u10  net-_u10-pad1_ net-_m1-pad1_ dac_bridge_1
m1 net-_m1-pad1_ net-_m1-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
* u3  net-_u1-pad3_ net-_u3-pad2_ adc_bridge_1
* u7  net-_u3-pad2_ net-_u11-pad1_ d_inverter
* u11  net-_u11-pad1_ net-_m2-pad1_ dac_bridge_1
m2 net-_m2-pad1_ net-_m1-pad2_ net-_m2-pad3_ net-_m2-pad3_ CMOSN W=100u L=100u M=1
* u4  net-_u1-pad5_ net-_u4-pad2_ adc_bridge_1
* u8  net-_u4-pad2_ net-_u12-pad1_ d_inverter
* u12  net-_u12-pad1_ net-_m3-pad1_ dac_bridge_1
m3 net-_m3-pad1_ net-_m1-pad2_ net-_m3-pad3_ net-_m3-pad3_ CMOSN W=100u L=100u M=1
* u5  net-_u1-pad9_ net-_u5-pad2_ adc_bridge_1
* u9  net-_u5-pad2_ net-_u13-pad1_ d_inverter
* u13  net-_u13-pad1_ net-_m4-pad1_ dac_bridge_1
m4 net-_m4-pad1_ net-_m1-pad2_ net-_m4-pad3_ net-_m4-pad3_ CMOSN W=100u L=100u M=1
* u1  net-_u1-pad1_ net-_m1-pad3_ net-_u1-pad3_ net-_m2-pad3_ net-_u1-pad5_ net-_m3-pad3_ gnd net-_m4-pad3_ net-_u1-pad9_ net-_m5-pad3_ net-_u1-pad11_ net-_m6-pad3_ net-_u1-pad13_ net-_m1-pad2_ port
* u14  net-_u1-pad11_ net-_u14-pad2_ adc_bridge_1
* u16  net-_u14-pad2_ net-_u16-pad2_ d_inverter
* u18  net-_u16-pad2_ net-_m5-pad1_ dac_bridge_1
m5 net-_m5-pad1_ net-_m1-pad2_ net-_m5-pad3_ net-_m5-pad3_ CMOSN W=100u L=100u M=1
* u15  net-_u1-pad13_ net-_u15-pad2_ adc_bridge_1
* u17  net-_u15-pad2_ net-_u17-pad2_ d_inverter
* u19  net-_u17-pad2_ net-_m6-pad1_ dac_bridge_1
m6 net-_m6-pad1_ net-_m1-pad2_ net-_m6-pad3_ net-_m6-pad3_ CMOSN W=100u L=100u M=1
a1 [net-_u1-pad1_ ] [net-_u2-pad2_ ] u2
a2 net-_u2-pad2_ net-_u10-pad1_ u6
a3 [net-_u10-pad1_ ] [net-_m1-pad1_ ] u10
a4 [net-_u1-pad3_ ] [net-_u3-pad2_ ] u3
a5 net-_u3-pad2_ net-_u11-pad1_ u7
a6 [net-_u11-pad1_ ] [net-_m2-pad1_ ] u11
a7 [net-_u1-pad5_ ] [net-_u4-pad2_ ] u4
a8 net-_u4-pad2_ net-_u12-pad1_ u8
a9 [net-_u12-pad1_ ] [net-_m3-pad1_ ] u12
a10 [net-_u1-pad9_ ] [net-_u5-pad2_ ] u5
a11 net-_u5-pad2_ net-_u13-pad1_ u9
a12 [net-_u13-pad1_ ] [net-_m4-pad1_ ] u13
a13 [net-_u1-pad11_ ] [net-_u14-pad2_ ] u14
a14 net-_u14-pad2_ net-_u16-pad2_ u16
a15 [net-_u16-pad2_ ] [net-_m5-pad1_ ] u18
a16 [net-_u1-pad13_ ] [net-_u15-pad2_ ] u15
a17 net-_u15-pad2_ net-_u17-pad2_ u17
a18 [net-_u17-pad2_ ] [net-_m6-pad1_ ] u19
* Schematic Name: adc_bridge_1, NgSpice Name: adc_bridge
.model u2 adc_bridge(fall_delay=1.0e-9 in_high=2.0 rise_delay=1.0e-9 in_low=1.0 ) 
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u6 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: dac_bridge_1, NgSpice Name: dac_bridge
.model u10 dac_bridge(out_undef=0.5 out_low=0.0 out_high=5.0 t_rise=1.0e-9 t_fall=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name: adc_bridge_1, NgSpice Name: adc_bridge
.model u3 adc_bridge(fall_delay=1.0e-9 in_high=2.0 rise_delay=1.0e-9 in_low=1.0 ) 
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u7 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: dac_bridge_1, NgSpice Name: dac_bridge
.model u11 dac_bridge(out_undef=0.5 out_low=0.0 out_high=5.0 t_rise=1.0e-9 t_fall=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name: adc_bridge_1, NgSpice Name: adc_bridge
.model u4 adc_bridge(fall_delay=1.0e-9 in_high=2.0 rise_delay=1.0e-9 in_low=1.0 ) 
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u8 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: dac_bridge_1, NgSpice Name: dac_bridge
.model u12 dac_bridge(out_undef=0.5 out_low=0.0 out_high=5.0 t_rise=1.0e-9 t_fall=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name: adc_bridge_1, NgSpice Name: adc_bridge
.model u5 adc_bridge(fall_delay=1.0e-9 in_high=2.0 rise_delay=1.0e-9 in_low=1.0 ) 
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u9 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: dac_bridge_1, NgSpice Name: dac_bridge
.model u13 dac_bridge(out_undef=0.5 out_low=0.0 out_high=5.0 t_rise=1.0e-9 t_fall=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name: adc_bridge_1, NgSpice Name: adc_bridge
.model u14 adc_bridge(fall_delay=1.0e-9 in_high=2.0 rise_delay=1.0e-9 in_low=1.0 ) 
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u16 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: dac_bridge_1, NgSpice Name: dac_bridge
.model u18 dac_bridge(out_undef=0.5 out_low=0.0 out_high=5.0 t_rise=1.0e-9 t_fall=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name: adc_bridge_1, NgSpice Name: adc_bridge
.model u15 adc_bridge(fall_delay=1.0e-9 in_high=2.0 rise_delay=1.0e-9 in_low=1.0 ) 
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u17 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: dac_bridge_1, NgSpice Name: dac_bridge
.model u19 dac_bridge(out_undef=0.5 out_low=0.0 out_high=5.0 t_rise=1.0e-9 t_fall=1.0e-9 input_load=1.0e-12 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
